*****************************************************************
* NXP PSMN020-30MLC
*
* Polarity N-Channel
* Ratings 30V/1.810000E-002OHMS/31.7751543033837A
*
* Date Created Wed Aug 29 05:25:31 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN020-30MLC DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.8e-10
RLS2 SOURCE 8 1.20637157897848
RLS1 8 7 0.00055

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0119310179963723 TC=0.0056990901748675,-2.72627428409887E-07
RBD 9 4 0.00540182590129342 TC=0.0056990901748675,-2.72627428409887E-07
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 3.6304624175527e-10
RG 1 2 1.34566176181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	510.955
+ -10	510.553
+ -8	509.927
+ -6	508.936
+ -5	508.006
+ -4	506.503
+ -3	502.954
+ -2	508.179
+ -1	413.477
+ -0.5	294.015
+ -0.2	261.735
+ -0.1	260.855
+ 0	229.04004
+ 0.1	191.14024
+ 0.2	190.985
+ 0.5	159.78712
+ 1	131.069
+ 2	108.5408
+ 3	99.24888
+ 4	93.49305
+ 5	89.33551
+ 6	86.13825
+ 8	81.30846
+ 10	77.67756
+ 12	74.79616
+ 15	71.46302



.MODEL MINT NMOS(Vto=2.01863753334025 Kp=3.724819e+001 Nfs=580000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=1.86238962672022e-13
+ N=1 M=0.53 VJ=0.5 Fc=0.5 Cjo=2.5573188e-10 Tt=6.336e-09)

.ENDS

